2168-03-03 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started on albuterol & ipratropium nebs for wheezing
   - received Lasix 40 IV x 2 yesterday
   - Initial CK's normal, but 8pm CE's demonstrate elevations in CK, MBI &
   trops. [**Month (only) 11**] be demand ischemia as patient CP free & EKG unchanged, but
   started on Heparin gtt & transfused 1u pRBC's. Already on beta-blocker,
   statin, ASA, Plavix
   Allergies:
   Codeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2168-3-2**] 11:24 AM
   Vancomycin - [**2168-3-2**] 01:00 PM
   Infusions:
   Nitroglycerin - 0.3 mcg/Kg/min
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-3-2**] 10:57 PM
   Furosemide (Lasix) - [**2168-3-3**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-3**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 77 (59 - 79) bpm
   BP: 121/38(62) {103/33(55) - 140/124(127)} mmHg
   RR: 26 (14 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.7 kg (admission): 92.7 kg
           Total In:
                                                                    895 mL
                                                                    493 mL
   PO:
                                                                    570 mL
           TF:
   IVF:
                                                                    325 mL
                                                                    118 mL
   Blood products:
   375 mL
   Total out:
                                                                  3,240 mL
                                                                    545 mL
   Urine:
                                                                  1,940 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,345 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.44/40/76.[**Numeric Identifier 433**]/26/2
   PaO2 / FiO2: 76
   Physical Examination
   Gen: elderly woman, lying in bed with facemask on, with mildly labored
   breathing
   HEENT: NC/AT, mucous membranes dry
   Cardiac: RRR, no murmurs
   Pulm: Diffuse inspiratory crackles in both lung fields, R>L
   Abdominal: soft, NT/ND, normoactive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Neurologic: A&Ox3, no focal neurologic deficits
   Labs / Radiology
   137 K/uL
   9.1 g/dL
   139 mg/dL
   2.1 mg/dL
   24 mEq/L
   3.5 mEq/L
   101 mg/dL
   100 mEq/L
   142 mEq/L
   26.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2168-3-2**]  11:52 AM
                             [**2168-3-2**]  07:59 PM
                             [**2168-3-3**]  06:06 AM
                             [**2168-3-3**]  07:20 AM
   WBC
   8.1
   Hct
   23.7
   26.9
   Plt
   137
   Cr
   2.1
   TropT
   0.15
   0.52
   TCO2
   28
   Glucose
   100
   Other labs: CK / CKMB / Troponin-T:250/40/0.52, ALT / AST:47/45, Alk
   Phos / T Bili:144/0.6, Differential-Neuts:87.6 %, Lymph:4.3 %, Mono:5.2
   %, Eos:0.5 %, LDH:278 IU/L, Ca++:8.3 mg/dL, Mg++:3.3 mg/dL, PO4:7.0
   mg/dL
   Assessment and Plan
   86 year old woman with past medical history significant for CAD,
   chronic systolic CHF, CKD, and diabetes mellitus presenting with
   dyspnea on exertion, weight gain, and lower extremity edema c/w CHF
   exacerbation.
   1) NSTEMI: Patient with h/o CAD and has had intermittent chest pain
   though cardiac enzymes were flat.  Diffuse (mostly lateral) ST changes
   were though to be related to demand in the setting of known,
   unintervenable CAD, but patient ruled in on [**3-2**] PM with elevated
   enzymes, unchanged EKG and no chest pain. She was continued on BB, ASA,
   statin, and Heparin gtt started. Given [**Last Name (LF) 2406**], [**First Name3 (LF) **] not be ideal candidate
   for cardiac catheterization, so plan for medical management.
   -Continue BB, ASA
   -Heparin gtt
   -Repeat EKG in AM
   -Cycle cardiac enzymes
   2) Health Care Associated Pneumonia: Patient has right sided infiltrate
   with an impressive consolidation.  Given recent stay in [**Hospital1 69**] and
   worsening hypoxia this morning it is reasonable to give broad spectrum
   coverage with cefepime and vancomycin.  Will attempt to get further
   diagnostic information with sputum cultures but unlikely to get as the
   patient is as of yet not coughing up sputum.
   - F/U sputum culture
   - Cefepime (renally dosed) and Vancomycin (dosed per level)
   - Expand coverage for atypicals with Levofloxacin 250mg IV q24H
   - O2 by facemask, frequent ABG
   3) Acute on chronic systolic congestive heart failure: Still volume
   overloaded, but significantly improved overnight.  Unclear what
   precipitated decompensation as patient reports good adherence to
   medication regimen and no clear dietary indiscretions.  Still, on
   conversation with family it seems patient has multiple stressors
   regarding husband's reluctance to make transition to [**Hospital3 59**]
   and likely suffered outside closely supervised environment of
   rehabilitation.  Finally, relative hypertension may have contributed to
   increased afterload and rapid development of more severe pulmonary
   edema.
   -Continue BB, ASA
   -NTG gtt, titrate SBP to 110, continue Amlodipine
   -Patient is not on ACE-I at baseline, will hold for recent hyperkalemia
   and [**Last Name (un) 2406**]
   -Furosemide 80 mg IV PRN, aim for goal of  1L negative today
   -Titrate O2 to goal of 92-93%
   4) Acute Kidney Injury on Chronic Kidney Disease: Patient has stage
   III-IV CKD at baseline at baseline and currently worsened.  Likely due
   to prerenal azotemia and poor forward flow particularly given 2:1 BUN
   to Cr ratio.  Would expect to see improvement with diuresis and
   decreased congestion though will need further work-up to exclude other
   causes.
   -Urine electrolytes consistent with pre-renal etiology, likely from
   poor forward flow
   -PM serum electrolytes
   - Continue diuresis with Lasix for now
   6) Rhythm: Patient is in sinus rhythm currently and has no history of
   arrythmia.
   -Continue to monitor on telemetry
   7) Diabetes Mellitus: Patient reasonably well controlled.
   -Continue insulin sliding scale
   8) Hypertension: Will attempt to well control hypertension in the
   setting of possible flash pulmonary edema.
   -Hold Isosorbide while on nitro drip
   -Hold Hydralazine
   -Continue Amolodipine and Carvedilol, continue Clonidine given concern
   for rebound
   9) Anemia: Unclear etiology.  Patient has a history of B12 deficiency
   and on repletion but current Hct is worse than baseline and no clear
   etiology.  Received 1u pRBC
s in context of NSTEMI.
   -Iron studies
   -Guaiac stools
   -Goal Hct >30 given ischemia, but this may be challenging in context of
   fluid overload.
   -Type and screen
   -Hemolysis labs
   10) Relative thrombocytopenia: Unclear why patient's platelets have
   declined since previous hospitalization.  Patient has multiple
   potential etiologies including worsening renal failure and relative
   [**Name (NI) 10496**] deficiency versus medication suppression or other
   issues.  Timing of discharge and rehab stay NOT consistent with HIT.
   Clopidogrel can cause thrombocytopenia and may come to this as cause if
   persists and other causes remain unlikely.
   -Check for hemolysis and RBC morph smear to rule out schistocytes
   though overall presentation not suggestive of TTP or [**Doctor First Name 5779**]
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: Regular insulin sliding scale
   Lines:
   22 Gauge - [**2168-3-2**] 11:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Communication: Family meeting held , ICU consent signed
   Code status: Full code
   Disposition: ICU
   Code status: Full code
   ------ Protected Section ------
   Attendings note:10.00hrs
   Reviewed data, examined Pt
   Agree with Rx plan of Dr.[**Last Name (STitle) 10179**]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 45mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2168-3-3**] 10:21 ------

2168-03-04 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Doctor Last Name **] consult: maintain Is/Os even, restart Hydral and Imdur, stop
   Amlodipine
   - Received Ativan for anxiety
   - Received 2 doses of Vancomycin on [**3-3**]
   - PICC placed [**3-4**] AM
   Allergies:
   Codeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2168-3-3**] 10:00 AM
   Levofloxacin - [**2168-3-3**] 11:00 AM
   Cefipime - [**2168-3-3**] 03:11 PM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-3-3**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-4**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 70 (56 - 79) bpm
   BP: 120/78(88) {100/33(52) - 135/78(110)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.7 kg (admission): 92.7 kg
             Total In:
                                                                  1,956 mL
                                                                    142 mL
   PO:
                                                                  1,020 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    561 mL
                                                                     42 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,810 mL
                                                                    410 mL
   Urine:
                                                                  1,810 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    146 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen: elderly woman, lying in bed with facemask & NC in place, with
   mildly labored breathing
   HEENT: NC/AT, oral mucosa dry with tacky secretions
   Cardiac: Tachycardic, regular rhythm, no murmurs
   Pulm: Decreased breath sounds at bases bilaterally R>L, no audible
   crackles
   Abdominal: soft, NT/ND, normoactive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Neurologic: A&Ox3, no focal neurologic deficits
   Labs / Radiology
    139K/uL
    8.1  g/dL
   157 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.1 mEq/L
   100 mg/dL
   101 mEq/L
   141 mEq/L
   23.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2168-3-2**]  11:52 AM
                             [**2168-3-2**]  07:59 PM
                             [**2168-3-3**]  06:06 AM
                             [**2168-3-3**]  07:20 AM
                             [**2168-3-3**]  02:03 PM
   WBC
   8.1
   Hct
   23.7
   26.9
   25.4
   Plt
   137
   Cr
   2.1
   2.1
   2.1
   TropT
   0.15
   0.52
   0.89
   0.99
   TCO2
   28
   Glucose
   100
   139
   184
   Other labs: PT / PTT / INR:13.5/ 37.0/1.2, CK / CKMB /
   Troponin-T:278/31/0.99, ALT / AST:47/45, Alk Phos / T Bili:144/0.6,
   Differential-Neuts:87.6 %, Lymph:4.3 %, Mono:5.2 %, Eos:0.5 %, LDH:278
   IU/L, Ca++:8.7 mg/dL, Mg++:3.0 mg/dL, PO4:6.5 mg/dL
   CXR [**2168-3-3**]:
   FINDINGS: As compared to the previous radiograph, the bilateral
   multifocal
   opacities are overall unchanged in extent and distribution. There is no
   evidence of newly appeared focal parenchymal opacities. The
   pre-existing
   signs indicative of overhydration might have minimally decreased.
   Unchanged
   size of the cardiac silhouette. No evidence of pleural effusions.
   Assessment and Plan
   86 year old woman with past medical history significant for CAD,
   chronic systolic CHF, CKD, and diabetes mellitus presenting with
   dyspnea on exertion, weight gain, and lower extremity edema c/w CHF
   exacerbation.
   1) Health Care Associated Pneumonia: Patient has right sided
   consolidation that is unchanged per CXR. Given recent stay in [**Hospital1 69**] and
   worsening hypoxia this morning, will continue
   Vanc/Cefepime/Levofloxacin.  Sputum culture was contaminated with oral
   flora. Will attempt to get a second sputum culture. Shortness of breath
   may also have an anxiety component as breathing improved with Ativan
   yesterday.
   - F/U CXR
   - Send sputum culture
   - Cefepime (renally dosed) and Vancomycin (dosed per level)
   - Levofloxacin 250mg IV q24H, day 2
   - O2 by facemask, frequent ABG
   - Pulmonary consult
   2) NSTEMI: Patient with h/o CAD and has had intermittent chest pain
   though cardiac enzymes were flat.  Diffuse (mostly lateral) ST changes
   were though to be related to demand in the setting of known,
   unintervenable CAD, but patient ruled in on [**3-2**] PM with elevated
   enzymes, unchanged EKG and no chest pain. She was continued on BB, ASA,
   statin, and Heparin gtt started. Given [**Last Name (LF) 2406**], [**First Name3 (LF) **] not be ideal candidate
   for cardiac catheterization, so plan for medical management and patient
   has been chest pain free. Cardiac enzymes trending down.
   -Continue BB, ASA, Simvastatin
   -Heparin gtt to continue until [**3-4**] at 8PM
   3) Acute on chronic systolic congestive heart failure:  Dr. [**First Name (STitle) **] felt
   patient
s presentation not c/w with acute exacerbation of sCHF. Per Dr.
   [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 10529**], Amlodipine was held and patient restarted on
   home Imdur/Hydralazine.
   - Continue BB, ASA
   - Hydralazine 100mg PO BID
   - Imdur 150mg PO daily
   - Patient is not on ACE-I at baseline, will hold for [**Last Name (un) 2406**]
   - Furosemide 40 mg PO, goal of 0.5-1L negative
   - Titrate O2 to goal of 92-93%
   4) Acute Kidney Injury on Chronic Kidney Disease: Patient has stage
   III-IV CKD at baseline at baseline and currently worsened.  Likely due
   to prerenal azotemia and poor forward flow particularly given 2:1 BUN
   to Cr ratio.
   - Urine electrolytes consistent with pre-renal etiology, likely from
   poor forward flow despite absence of severe sCHF exacerbation, but may
   have component present
   - PM serum electrolytes
   - Continue diuresis with Lasix 40mg PO BID
   6) Rhythm: Patient is in sinus rhythm currently and has no history of
   arrythmia.
   -Continue to monitor on telemetry
   7) Diabetes Mellitus: Patient reasonably well controlled.
   -Continue insulin sliding scale
   8) Hypertension: Resolved with restarting her home regimen. Amlodipine
   stopped.
   - Restarted Imdur & Hydralazine as above
   - Continue home Clonidine & Carvedilol
   9) Anemia: Iron studies c/w iron deficiency & chronic inflammation.
   Hemolysis labs negative. Received 1u pRBC
s in context of NSTEMI on
   [**3-2**]. Trending down after initial appropriate bump in Hct.
   - Transfuse 1u pRBC
   - Ferrous Sulfate 325mg daily
   - Goal Hct >30 given ischemia, but this may be challenging in context
   of fluid overload.
   - Guaiac stools
   - Maintain active type and screen
   - Trend CBC
   ICU Care
   Nutrition: cardiac/heart healthy, 2L fluid restriction
   Glycemic Control: Regular insulin sliding scale
   Lines:
   22 Gauge - [**2168-3-2**] 11:26 AM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: Not indicated
   VAP:
   Communication: Family meeting held , ICU consent signed
   Code status: Full code
   Disposition: ICU
   Code status: Full code
   ------ Protected Section ------
   Attending
s Note:
   Reviewed overnight course and data.
   Agree with Dr.[**Last Name (STitle) 10179**]
s note and Rx plan
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 45mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2168-3-4**] 11:04 ------

2168-03-05 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2168-3-4**] 12:00 PM
 URINE CULTURE - At [**2168-3-4**] 09:17 PM
 ARTERIAL LINE - START [**2168-3-4**] 10:02 PM
   - PICC placed
   - CXR demonstrates no improvement in infiltrates, PICC in low SVC
   - repeat sputum cx contaminated again
   - transfused 1u pRBC's
   - heparin gtt d/c'd at 8pm --> sc heparin started for DVT ppx
   - ABG looks fine, but pO2/FiO2 is 120 (<200mm Hg), together with acute
   presentation, bilateral pulmonary infiltrate, and presentation not due
   to CHF, she meets the criteria for ARDS
   - pulmonary consult: chest CT showed evidence of infection.  history is
   consistent with chronic aspirations, so the chest CT finding might be
   chronic aspiration pneumonitis, which explains why she has no wbc and
   afebrile. also need to rule out flu, start tamiflu.  need speech and
   swallow [**Year (4 digits) **].
   - CT chest: bilateral infiltrate, consistent with infection, R>L.  also
   has R>L pleural effusion. also has evidence of tracheobronchomalacia.
   - at about 10pm, pt ABG looked worse (PaO2 down from 114 to 62, sats
   down to 90-91%), so pt put on BiPAP 10/5, sats much better
   - A-line placed for more regular ABG checks
   - given the desats, also given 20mg IV lasix at 10pm for diuresis
   - pt has lots of anxiety because of concern for the [**Age over 90 **]-year-old husband
   at home
   Allergies:
   Codeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2168-3-3**] 10:00 AM
   Levofloxacin - [**2168-3-4**] 10:00 AM
   Cefipime - [**2168-3-4**] 11:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2168-3-4**] 10:09 PM
   Lorazepam (Ativan) - [**2168-3-4**] 10:17 PM
   Heparin Sodium (Prophylaxis) - [**2168-3-5**] 05:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-5**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 69 (61 - 83) bpm
   BP: 111/31(52) {89/27(47) - 156/91(100)} mmHg
   RR: 21 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 92.7 kg
   Height: 62 Inch
             Total In:
                                                                  1,550 mL
                                                                    170 mL
   PO:
                                                                    860 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    340 mL
                                                                     70 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,300 mL
                                                                    390 mL
   Urine:
                                                                  1,300 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 441 (441 - 441) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.44/42/131/28/4
   Ve: 7.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Gen: elderly woman, lying in bed with facemask & NC in place, with
   labored breathing, coughing intermittently
   HEENT: NC/AT, oral mucosa dry with tacky secretions
   Cardiac: Tachycardic, regular rhythm, no murmurs
   Pulm: Decreased breath sounds at bases bilaterally R>L, no audible
   crackles, significant wheezing on exam today
   Abdominal: soft, NT/ND, normoactive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: DP, PT and radial pulses palpable bilaterally
   Neurologic: A&Ox3, no focal neurologic deficits
   Labs / Radiology
   150 K/uL
   8.3 g/dL
   251 mg/dL
   2.1 mg/dL
   28 mEq/L
   3.8 mEq/L
   100 mg/dL
   102 mEq/L
   141 mEq/L
   24.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2168-3-3**]  02:03 PM
                             [**2168-3-4**]  08:00 AM
                             [**2168-3-4**]  08:04 AM
                             [**2168-3-4**]  11:37 AM
                             [**2168-3-4**]  03:23 PM
                             [**2168-3-4**]  09:31 PM
                             [**2168-3-4**]  11:28 PM
                             [**2168-3-5**]  12:37 AM
                             [**2168-3-5**]  05:17 AM
                             [**2168-3-5**]  05:31 AM
   WBC
   9.2
   8.4
   Hct
   25.4
   23.7
   25.4
   28
   24.9
   Plt
   139
   150
   Cr
   2.1
   2.0
   2.1
   2.1
   TropT
   0.99
   1.03
   TCO2
   31
   28
   28
   29
   29
   Glucose
   184
   165
   157
   151
   251
   Other labs:
   PT / PTT / INR:12.9/30.7/1.1,
   CK / CKMB / Troponin-T:194/19/1.03, ALT / AST:47/45, Alk Phos / T
   Bili:144/0.6,
   Differential-Neuts:87.6 %, Lymph:4.3 %, Mono:5.2 %, Eos:0.5 %, LDH:278
   IU/L,
   Ca++:8.8 mg/dL, Mg++:3.0 mg/dL, PO4:4.7 mg/dL
   Chest CT without contrast ([**3-4**]): report pending
   Legionella neg
   Flu A and B pending
   Sputum sample contaminated x 2
   Assessment and Plan
   86 year old woman with past medical history significant for CAD,
   chronic systolic CHF, CKD, and diabetes mellitus presenting with
   dyspnea on exertion, weight gain, and lower extremity edema c/w CHF
   exacerbation.
   .
   1) Health Care Associated Pneumonia: Patient has bilateral
   consolidation (R>L) on chest CT. Patient reports that she chokes every
   time she drinks water, raising concern for persistent aspirations.  Her
   chest CT would be consistent with persistent aspirations.  Also,
   patient has evidence of tracheobronchomalacia, which would predispose
   her to recurrent pulmonary infections.  Given recent stay in [**Hospital1 69**] and
   worsening hypoxia this morning, will continue
   Vanc/Cefepime/Levofloxacin.  Sputum culture x2 was contaminated with
   oral flora. Shortness of breath may also have an anxiety component as
   breathing improved with Ativan. Patient was briefly on BiPAP for low
   PaO2, which she tolerated for 1.5h.  She did well on high flow face
   mask later.
   - continue Cefepime (renally dosed, day1: [**3-2**], day [**5-21**]) and
   Vancomycin (dosed per level, day1: [**3-2**], day [**5-21**]),  Levofloxacin 250mg
   IV q24H, day 4
   - continue tamiflu (day 1: [**3-4**], day [**3-18**])
   - f/u on flu DFA
   - s/s [**Month/Day (1) **]
   - prior to s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) 116**] continue to give meds with thickened liquids
   - continue aspiration precaution
   - IP consult for possible stent placement for tracheobronchomalacia in
   the future, not during the CCU stay
   - BiPAP as needed
   - O2 by facemask, frequent ABG
   - f/u Pulmonary recs
   .
   2) NSTEMI: Patient with h/o CAD and has had intermittent chest pain
   though cardiac enzymes were flat.  Diffuse (mostly lateral) ST changes
   were though to be related to demand in the setting of known,
   unintervenable CAD, but patient ruled in on [**3-2**] PM with elevated
   enzymes, unchanged EKG and no chest pain. She was continued on BB, ASA,
   statin, and Heparin gtt started. Since patient is not an ideal
   candidate for cardiac catheterization, and this bump in cardiac enzymes
   are likely secondary to pulmonary process causing heart demand
   ischemia, plan is for medical management and patient has been chest
   pain free. Cardiac enzymes trending down. Heparin gtt was discontinued
   on [**3-4**] at 8PM.
   - d/c carvedilol today given substantial wheezing on exam today, will
   restart it tomorrow at a lower dose (25mg [**Hospital1 **])
   - continue ASA, Simvastatin
   .
   3) Acute on chronic systolic congestive heart failure:  Dr. [**First Name (STitle) **] felt
   patient
s presentation not c/w with acute exacerbation of sCHF. Per Dr.
   [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 10529**], Amlodipine was held and patient restarted on
   home Imdur/Hydralazine.
   - Continue ASA, Hydralazine 100mg PO BID, Imdur 150mg PO daily
   - Patient is not on ACE-I at baseline, will start a low dose captopril
   3.25mg TID now that creatinine is at baseline
   - lasix today for goal of 0.5L negative
   - Titrate O2 to goal of 92-93%
   .
   4) Acute Kidney Injury on Chronic Kidney Disease: Patient has stage
   III-IV CKD at baseline and currently back to baseline.  The initial [**Last Name (un) 2406**]
   was likely due to prerenal azotemia and poor forward flow particularly
   given 2:1 BUN to Cr ratio.   Urine electrolytes consistent with
   pre-renal etiology, likely from poor forward flow despite absence of
   severe sCHF exacerbation.
   - lasix today for goal of 0.5L negative
   .
   6) Rhythm: Patient is in sinus rhythm currently and has no history of
   arrythmia.
   -Continue to monitor on telemetry
   - hold carvedilol today given substantial wheezing on exam today, will
   restart it tomorrow at a lower dose (25mg [**Hospital1 **])
   .
   7) Diabetes Mellitus: Patient reasonably well controlled.
   -Continue insulin sliding scale
   .
   8) Hypertension: Resolved with restarting her home regimen. Amlodipine
   stopped.
   - continue Imdur & Hydralazine
   - hold carvedilol today given substantial wheezing on exam today, will
   restart it tomorrow at a lower dose (25mg [**Hospital1 **])
   - d/c clonidine, start catapres patch today
   .
   9) Anemia: Iron studies c/w iron deficiency & chronic inflammation.
   Hemolysis labs negative. Received 1u pRBC
s in context of NSTEMI on
   [**3-2**]. Trending down after initial appropriate bump in Hct. Received
   another unit of pRBC on [**3-4**], trended down again after initial bump.
   Hct this morning is 24.9.
   - Ferrous Sulfate 325mg daily
   - start Omeprazole 20 mg PO DAILY today
   - Guaiac stools
   - Goal Hct >30 given ischemia, but this may be challenging in context
   of fluid overload.
   - Maintain active type and screen
   - Trend CBC
   ICU Care
   Nutrition: cardiac/heart healthy, no free water given likely
   aspiration, pending s/s [**Month/Year (2) **]
   Glycemic Control: Regular insulin sliding scale
   Lines:
   22 Gauge - [**2168-3-2**] 11:26 AM
   PICC Line - [**2168-3-4**] 12:00 PM
   Arterial Line - [**2168-3-4**] 10:02 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: start PPI today
   VAP:
   Communication: ICU consent signed
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2168-3-5**] 10:32 ------

2168-03-06 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - wheezy today, decreased Carvedilol to 25mg [**Hospital1 **] from 50mg [**Hospital1 **]
   - started on Captopril 6.25mg TID
   - started on omeprazole for GI ppx given presumed GI bleed as cause of
   downward Hct trend
   - flu swab: negative, tamiflu d/c'd
   - sputum cx: contaminated (3rd contaminated sample)
   - d/c'd PO lasix 40 [**Hospital1 **] this AM, patient net +500cc at 3pm, got Lasix
   40 IV x 1, still net +400cc at 11:30pm, got Lasix 80 IV x 1
   - Hct stable at 24.3
   - Insulin sliding scale and NPH increased
   - Family meeting yesterday
   - S&S: no recs
   Allergies:
   Codeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2168-3-3**] 10:00 AM
   Levofloxacin - [**2168-3-5**] 10:00 AM
   Cefipime - [**2168-3-5**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-3-5**] 10:00 PM
   Furosemide (Lasix) - [**2168-3-5**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-6**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36
C (96.8
   HR: 74 (62 - 83) bpm
   BP: 112/29(55) {112/29(55) - 112/29(55)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.4 kg (admission): 92.7 kg
   Height: 62 Inch
             Total In:
                                                                  1,436 mL
                                                                     78 mL
   PO:
                                                                  1,045 mL
             TF:
   IVF:
                                                                    391 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    345 mL
   Urine:
                                                                  1,035 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: 7.44/43/143/27/5
   PaO2 / FiO2: 179
   Physical Examination
   Gen: elderly woman, lying in bed with facemask in place, with paroxysms
   of cough
   HEENT: NC/AT, oral mucosa dry
   Cardiac: Regular rate & rhythm, no murmurs
   Pulm: Decreased breath sounds at bases bilaterally, squeaks & wheezes
   throughout the anterior and posterior chest with improved air movement
   posteriorly
   Abdominal: soft, NT/ND, normoactive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: DP, PT and radial pulses palpable bilaterally
   Neurologic: A&Ox3, no focal neurologic deficits
   Labs / Radiology
   146 K/uL
   7.5 g/dL
   170 mg/dL
   2.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   103 mg/dL
   103 mEq/L
   142 mEq/L
   23.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2168-3-4**]  03:23 PM
                             [**2168-3-4**]  09:31 PM
                             [**2168-3-4**]  11:28 PM
                             [**2168-3-5**]  12:37 AM
                             [**2168-3-5**]  05:17 AM
                             [**2168-3-5**]  05:31 AM
                             [**2168-3-5**]  02:38 PM
                             [**2168-3-5**]  03:13 PM
                             [**2168-3-6**]  06:22 AM
                             [**2168-3-6**]  06:28 AM
   WBC
   8.4
   6.5
   Hct
   25.4
   28
   24.9
   24.3
   23.4
   Plt
   150
   146
   Cr
   2.1
   2.1
   2.1
   TCO2
   28
   28
   29
   29
   32
   30
   Glucose
   151
   251
   170
   Other labs: PT / PTT / INR:12.9/30.7/1.1, CK / CKMB /
   Troponin-T:194/19/1.03, ALT / AST:47/45, Alk Phos / T Bili:144/0.6,
   Differential-Neuts:87.6 %, Lymph:4.3 %, Mono:5.2 %, Eos:0.5 %, Lactic
   Acid:1.7 mmol/L, LDH:278 IU/L, Ca++:8.8 mg/dL, Mg++:2.8 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   86 year old woman with past medical history significant for CAD,
   chronic systolic CHF, CKD, and diabetes mellitus presenting with
   dyspnea on exertion, weight gain, and lower extremity edema c/w CHF
   exacerbation.
   .
   1) Health Care Associated Pneumonia: Patient has bilateral
   consolidation (R>L) on chest CT. Flu negative. Patient reports that she
   chokes every time she drinks water and her chest CT would be consistent
   with persistent aspirations.  Also, patient has evidence of
   tracheobronchomalacia, which would predispose her to recurrent
   pulmonary infections.  Sputum culture x3 was contaminated with oral
   flora. Patient with significant improvement in breathing and energy
   this AM. ABG stable on less FiO2 and CXR demonstrates interval
   improvement.
   - F/U final CXR read
   - F/U Pulmonary recs
   - Wean O2 by facemask PRN with frequent ABG
   - Continue Cefepime (renally dosed, day1: [**3-2**], day [**6-20**]) and
   Vancomycin (dosed per level, day1: [**3-2**], day [**6-20**]),  Levofloxacin 250mg
   IV q24H, day 4
   - Continue to give meds with thickened liquids pending S&S evaluation
   - Continue aspiration precaution
   .
   2) NSTEMI: Patient with h/o CAD and has had intermittent chest pain
   though cardiac enzymes were flat.  Diffuse (mostly lateral) ST changes
   were though to be related to demand in the setting of known,
   unintervenable CAD, but patient ruled in on [**3-2**] PM with elevated
   enzymes, unchanged EKG and no chest pain. She was continued on BB, ASA,
   statin, and Heparin gtt started. Since patient is not an ideal
   candidate for cardiac catheterization, and this bump in cardiac enzymes
   are likely secondary to pulmonary process causing heart demand
   ischemia, plan is for medical management and patient has been chest
   pain free. Cardiac enzymes trending down. Heparin gtt was discontinued
   on [**3-4**] at 8PM.
   - Carvedilol 25mg PO BID
   - Continue ASA, Simvastatin
   - Repeat TTE s/p NSTEMI as an inpatient
   .
   3) Acute on chronic systolic congestive heart failure:  Dr. [**First Name (STitle) **] felt
   patient
s presentation not c/w with acute exacerbation of sCHF. Per Dr.
   [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 10529**], Amlodipine was held and patient restarted on
   home Imdur/Hydralazine.
   - Continue ASA, Hydralazine 100mg PO BID, Imdur 150mg PO daily
   - Captopril 6.25mg PO TID
   - Hold home Lasix 40mg PO BID today, but can restart for goal of net
   I/O even
   - Titrate O2 to goal of 92-93%
   .
   4) Acute Kidney Injury on Chronic Kidney Disease: Patient has stage
   III-IV CKD at baseline and currently back to baseline.  The initial [**Last Name (un) 2406**]
   was likely due to prerenal azotemia and poor forward flow particularly
   given 2:1 BUN to Cr ratio.   Urine electrolytes consistent with
   pre-renal etiology, likely from poor forward flow despite absence of
   severe sCHF exacerbation.
   - Hold home Lasix 40mg PO BID today, but can restart for goal of net
   I/O even
   - Given worsening renal function and elevated BUN, consider renal
   consult & touch base with patient
s outpatient PCP
   .
   6) Rhythm: Patient is in sinus rhythm currently and has no history of
   arrythmia.
   - Continue to monitor on telemetry
   - Carvedilol 25mg PO BID
   .
   7) Diabetes Mellitus: Insulin sliding scale and NPH increased yesterday
   in context of hyperglycemia.
   -Continue NPH & insulin sliding scale
   .
   8) Hypertension: Resolved with restarting her home regimen.
   - Continue Imdur & Hydralazine
   - Continue Carvedilol 25mg PO BID
   - Clonidine 0.1 PO BID
   .
   9) Anemia: Iron studies c/w iron deficiency & chronic inflammation.
   Received 2u pRBC
s with initial appropriate rise in Hct, but  trending
   down today after stable Hct on [**3-5**]. Hct this morning is 23.4.
   - Transfuse 1u pRBC
s today
   - Touch base with outpatient PCP regarding need for EPO [**3-15**] kidney
   disease
   - Ferrous Sulfate 325mg daily
   - Omeprazole 20 mg PO DAILY
   - Guaiac stools
   - Goal Hct >30 given ischemia, but this may be challenging in context
   of fluid overload.
   - Maintain active type and screen
   - Trend CBC
   ICU Care
   Nutrition: cardiac/heart healthy, dysphagia diet, nectar thickened
   liquids
   Glycemic Control:  NPH & Humalog sliding scale
   Lines:
   22 Gauge - [**2168-3-2**] 11:26 AM
   PICC Line - [**2168-3-4**] 12:00 PM
   Arterial Line - [**2168-3-4**] 10:02 PM
   Prophylaxis:
   DVT: SC Heparin & Pneumoboots
   Stress ulcer:  Omeprazole
   VAP:
   Communication:  Patient & patient
s son [**Name (NI) 117**]
   Code status: Full code
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Attending
s Note:08.30hrs
   Reviewed data and examined Pt
   Continues to improve.Suggest Pulm consult
   Ambulate.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2168-3-6**] 10:32 ------

2168-03-07 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - holding Vanc for level of 21
   - transfusing 1 unit for hct of 23.4,
   - clinically much stronger
   - tolerating lower dose of carvedilol
   - ordered TTE
   - BUN > 100; 90+ for > 1 month. Rec renal consult, eventually
   - held lasix today unless develops very positive balance. Will have to
   discuss her PO dose because 40 po did not work (3 days ago)
   Allergies:
   Codeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2168-3-6**] 10:00 AM
   Cefipime - [**2168-3-6**] 12:00 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2168-3-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-3-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-7**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 70 (60 - 74) bpm
   BP: 112/29(55) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.9 kg (admission): 92.7 kg
   Height: 62 Inch
             Total In:
                                                                  1,591 mL
                                                                    186 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    641 mL
                                                                     66 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,086 mL
                                                                    265 mL
   Urine:
                                                                  1,086 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    505 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.40/46/104//2
   PaO2 / FiO2: 173
   Physical Examination
   Gen: elderly woman, lying in bed with facemask in place, with paroxysms
   of cough
   HEENT: NC/AT, oral mucosa dry
   Cardiac: Regular rate & rhythm, no murmurs
   Pulm: Decreased breath sounds at bases bilaterally, squeaks & wheezes
   throughout the anterior and posterior chest with improved air movement
   posteriorly
   Abdominal: soft, NT/ND, normoactive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: DP, PT and radial pulses palpable bilaterally
   Neurologic: A&Ox3, no focal neurologic deficits
   Labs / Radiology
   4.5mEq/L
   144q/L
   180 K/uL
   8.3 g/dL
   211
   2.2
   28
   108
   106
   24.8 %
   6.7 K/uL
        [image002.jpg]
                             [**2168-3-4**]  11:28 PM
                             [**2168-3-5**]  12:37 AM
                             [**2168-3-5**]  05:17 AM
                             [**2168-3-5**]  05:31 AM
                             [**2168-3-5**]  02:38 PM
                             [**2168-3-5**]  03:13 PM
                             [**2168-3-6**]  06:22 AM
                             [**2168-3-6**]  06:28 AM
                             [**2168-3-6**]  01:49 PM
                             [**2168-3-7**]  06:18 AM
   WBC
   8.4
   6.5
   Hct
   24.9
   24.3
   23.4
   Plt
   150
   146
   Cr
   2.1
   2.1
   2.1
   TCO2
   28
   29
   29
   32
   30
   28
   30
   Glucose
   [**Telephone/Fax (3) 10566**]
   Vanc trough: 16.6
   CXR (today): pending
   Assessment and Plan
   86 year old woman with past medical history significant for CAD,
   chronic systolic CHF, CKD, and diabetes mellitus presenting with
   dyspnea on exertion, weight gain, and lower extremity edema c/w CHF
   exacerbation.
   .
   1) Health Care Associated Pneumonia: Patient is improving clinically.
   Patient has bilateral consolidation (R>L) on chest CT. Flu negative.
   Patient reports that she chokes every time she drinks water and her
   chest CT would be consistent with persistent aspirations.  Also,
   patient has evidence of tracheobronchomalacia, which would predispose
   her to recurrent pulmonary infections.  Sputum culture x3 was
   contaminated with oral flora.
   - Wean O2 by facemask PRN with frequent ABG
   - Continue Cefepime (renally dosed, day1: [**3-2**], day [**7-21**]) and
   Vancomycin (dosed per level, day1: [**3-2**], day [**7-21**]),  Levofloxacin 250mg
   IV q24H, day 5
   - s/s eval today
   - Continue to give meds with thickened liquids pending S&S evaluation
   - Continue aspiration precaution
   - HOB elevation
   - F/U final CXR read
   - F/U Pulmonary recs
   .
   2) NSTEMI: Patient with h/o CAD and has had intermittent chest pain
   though cardiac enzymes were flat.  Diffuse (mostly lateral) ST changes
   were though to be related to demand in the setting of known,
   unintervenable CAD, but patient ruled in on [**3-2**] PM with elevated
   enzymes, unchanged EKG and no chest pain. She was continued on BB, ASA,
   statin, and Heparin gtt started. Since patient is not an ideal
   candidate for cardiac catheterization, and this bump in cardiac enzymes
   are likely secondary to pulmonary process causing heart demand
   ischemia, plan is for medical management and patient has been chest
   pain free. Heparin gtt was discontinued on [**3-4**] at 8PM.
   - Continue Carvedilol 25mg PO BID
   - Continue ASA, Simvastatin, plavix
   - F/u repeat TTE
   .
   3) Acute on chronic systolic congestive heart failure:  Dr. [**First Name (STitle) **] felt
   patient
s presentation not c/w with acute exacerbation of sCHF. Per Dr.
   [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 10529**], Amlodipine was held and patient restarted on
   home Imdur/Hydralazine.  Patient
s home dose of lasix (PO 40mg [**Hospital1 **])
   does not seem to work.
   - Continue ASA, Hydralazine 100mg PO BID, Imdur 150mg PO daily,
   Captopril 6.25mg PO TID
   - increase home lasix to 80mg [**Hospital1 **], for goal I/O of even
   - Titrate O2 to goal of 92-93%
   - TTE today
   .
   4) Acute Kidney Injury on Chronic Kidney Disease: Patient has stage
   III-IV CKD at baseline and currently back to baseline.  The initial [**Last Name (un) 2406**]
   was likely due to prerenal azotemia and poor forward flow particularly
   given 2:1 BUN to Cr ratio.   Urine electrolytes consistent with
   pre-renal etiology, likely from poor forward flow despite absence of
   severe sCHF exacerbation.
   - IV lasix prn goal I/O of even
   - continue to monitor
   .
   9) Anemia: Iron studies c/w iron deficiency & chronic inflammation.
   Patient also chronic kidney disease which could contribute low hct. Has
   been received pRBC
s (3u, the most recent unit on [**3-6**]) with initial
   appropriate rise in Hct, but  trending down the next morning.  Patient
   was given 1u pRBC yesterday for hct of 23.4, this morning hct is 24.8.
   last colonoscopy in [**2162**]
   - Guaiac stools
   - Touch base with outpatient PCP regarding need for EPO [**3-15**] kidney
   disease
   - Ferrous Sulfate 325mg daily
   - protonix 40 mg PO DAILY
   - Goal Hct >30 given ischemia, but this may be challenging in context
   of fluid overload.
   - Maintain active type and screen
   - Trend CBC
   .
   6) Rhythm: Patient is in sinus rhythm currently and has no history of
   arrythmia.
   - Continue to monitor on telemetry
   - continue Carvedilol 25mg PO BID
   .
   7) Diabetes Mellitus: Insulin sliding scale and NPH increased on [**3-5**]
   in context of hyperglycemia.
   -Continue NPH & insulin sliding scale
   .
   8) Hypertension: Resolved with restarting her home regimen.
   - Continue Imdur & Hydralazine, Carvedilol 25mg PO BID, Clonidine 0.1
   PO BID
   ICU Care
   Nutrition: cardiac/heart healthy, dysphagia diet, nectar thickened
   liquids
   Glycemic Control:  NPH & Humalog sliding scale
   Lines:
   PICC Line - [**2168-3-4**] 12:00 PM
   Arterial Line - [**2168-3-4**] 10:02 PM
   Prophylaxis:
   DVT: SC Heparin & Pneumoboots
   Stress ulcer:  protonix
   VAP:
   Communication:  Patient & patient
s son [**Name (NI) 117**]
   Code status: Full code
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Attending
s Note:09.00hrs
   Reviewed overnight course.
   Continues to improve.
   Examined Pt and agree with Rx plan of Dr.[**First Name8 (NamePattern2) 2589**]
   [**Last Name (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 45mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2168-3-7**] 09:37 ------

2168-03-08 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Held Imdur/Hydralazine, but Dr. [**First Name (STitle) **] said it is ok to keep her on
   ACEI, imdur and Hydralazine.
   - S/S eval: no significant aspirations. rec PO intake of small sips of
   thin liquids and moist ground solids. Pills whole or crushed with
   puree, crush large pills.
   - Hemolysis labs neg, guaiac negative, retic index low at 0.66,
   indicating marrow problems. on Fe supplementation.
   - TTE: mild to moderate regional LV systolic dysfunction with severe
   hypokinesis of the distal half of the septum and inferior walls. LVEF =
   40 %. mod MR. [**First Name (Titles) **] [**Last Name (Titles) 1560**] HTN.
   Allergies:
   Codeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2168-3-7**] 10:37 AM
   Levofloxacin - [**2168-3-7**] 10:37 AM
   Cefipime - [**2168-3-7**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-3-7**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-8**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 61 (58 - 77) bpm
   BP: 112/29(55) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.7 kg (admission): 92.7 kg
   Height: 62 Inch
                  Total In:
                                                                    950 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                    590 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    270 mL
   Urine:
                                                                  1,025 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -76 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.43/44/102/27/3
   PaO2 / FiO2: 255
   Physical Examination
   Gen: elderly woman, lying in bed with facemask in place, breathing
   comfortably, NAD
   HEENT: NC/AT, clear oropharynx
   Cardiac: Regular rate & rhythm, no murmurs
   [**Year (2 digits) **]: Prominent rhonchi & wheezes throughout the anterior and posterior
   chest with moderate aeration at the bases
   Abdominal: soft, NT/ND, normoactive bowel sounds
   Extremities: warm, well-perfused, no edema
   Peripheral Vascular: DP, PT and radial pulses palpable bilaterally
   Neurologic: A&Ox3, no focal neurologic deficits
   Labs / Radiology
   202 K/uL
   8.8 g/dL
   138 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.1 mEq/L
   110 mg/dL
   106 mEq/L
   144 mEq/L
   26.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2168-3-5**]  02:38 PM
                             [**2168-3-5**]  03:13 PM
                             [**2168-3-6**]  06:22 AM
                             [**2168-3-6**]  06:28 AM
                             [**2168-3-6**]  01:49 PM
                             [**2168-3-7**]  06:01 AM
                             [**2168-3-7**]  06:18 AM
                             [**2168-3-7**]  04:27 PM
                             [**2168-3-7**]  06:21 PM
                             [**2168-3-8**]  04:48 AM
   WBC
   6.5
   6.7
   7.9
   Hct
   24.3
   23.4
   24.8
   25.1
   26.8
   Plt
   146
   180
   202
   Cr
   2.1
   2.1
   2.2
   2.0
   TCO2
   32
   30
   28
   30
   30
   Glucose
   170
   231
   211
   138
   Other labs: PT / PTT / INR:12.9/33.1/1.1, CK / CKMB /
   Troponin-T:194/19/1.03, ALT / AST:47/45, Alk Phos / T Bili:144/0.6,
   Differential-Neuts:87.6 %, Lymph:4.3 %, Mono:5.2 %, Eos:0.5 %, Lactic
   Acid:1.7 mmol/L, LDH:297 IU/L, Ca++:8.9 mg/dL, Mg++:2.9 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   86 year old woman with PMH significant for CAD, chronic systolic CHF,
   CKD, and diabetes mellitus presenting with dyspnea on exertion, weight
   gain, and lower extremity edema c/w COPD & systolic CHF exacerbation.
   .
   1) Health Care Associated Pneumonia/Respiratory Distress: Patient is
   improving clinically on broad spectrum antibiotics with a decreasing O2
   requirement in the context of a negative flu swab and no pathogen
   isolated with sputum culture due to contamination.  Bilateral
   consolidation (R>L) on chest CT also consistent with persistent
   aspirations, but S&S bedside evaluation on [**3-7**] was without clinically
   significant aspiration.  Patient also has evidence of
   tracheobronchomalacia, predisposing her to recurrent pulmonary
   infection.
   - Wean O2 by facemask PRN with frequent ABG
   - Continue Cefepime (renally dosed, day1: [**3-2**], day [**8-20**]) and
   Vancomycin (dosed per level, day1: [**3-2**], day [**8-20**]),  Levofloxacin 250mg
   IV q24H, day 6
   - Ipratropium & Albuterol nebs
   - HOB elevation
   - F/U CXR
   - F/U Pulmonary recs
   - F/U S&S video evaluation
   .
   2) NSTEMI: Patient with h/o CAD and ruled in on [**3-2**] PM with elevated
   enzymes, unchanged EKG and no chest pain in the context of heart demand
   ischemia,. She was continued on BB, ASA, statin, and Heparin gtt per
   protocol and managed medically as she is not an ideal candidate for
   cardiac catheterization. Since then, she has been chest pain free.
   Repeat TTE on [**3-7**] demonstrates mild to moderate regional LV systolic
   dysfunction with severe hypokinesis of the distal half of the septum
   and inferior walls. LVEF = 40 %. mod MR. [**First Name (Titles) **] [**Last Name (Titles) 1560**] HTN.
   - Continue Carvedilol 25mg PO BID
   - Continue ASA, Simvastatin, Plavix
   .
   3) Acute on chronic systolic congestive heart failure:  Dr. [**First Name (STitle) **] felt
   patient
s presentation not c/w with acute exacerbation of sCHF. Per Dr.
   [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 10529**], Amlodipine was held and patient restarted on
   home Imdur/Hydralazine.  This was then held again when started on ACE.
   - Continue ASA, Captopril 6.25mg PO TID
   - Discuss with Dr. [**First Name (STitle) **] need for Imdur/Hydralazine before restarting
   - Continue Lasix 80mg [**Hospital1 **], for goal I/O of even
   - Titrate O2 to goal of 92-93%
   .
   4) Acute Kidney Injury on Chronic Kidney Disease: Patient has stage
   III-IV CKD at baseline and currently back to baseline.  The initial [**Last Name (un) 2406**]
   was likely due to prerenal azotemia and poor forward flow particularly
   given 2:1 BUN to Cr ratio.
   - IV Lasix prn goal I/O of even
   - Continue to monitor
   .
   5) Anemia: Iron studies c/w iron deficiency & chronic inflammation.
   Patient also chronic kidney disease which could contribute low hct. Has
   been received pRBC
s (3u, the most recent unit on [**3-6**]) with initial
   appropriate rise in Hct, but then trends down.  Last colonoscopy in
   [**2162**], guaiac negative stool. Negative hemolysis labs. Hct improved
   today, will continue to monitor.
   - Touch base with outpatient PCP regarding need for EPO [**3-15**] kidney
   disease
   - Ferrous Sulfate 325mg daily
   - Protonix 40 mg PO DAILY
   - Goal Hct >30 given ischemia, but this may be challenging in context
   of fluid overload.
   - Maintain active type and screen
   - Trend CBC
   .
   6) Rhythm: Patient is in sinus rhythm currently and has no history of
   arrythmia.
   - Continue to monitor on telemetry
   - continue Carvedilol 25mg PO BID
   .
   7) Diabetes Mellitus: Insulin sliding scale and NPH increased on [**3-5**]
   in context of hyperglycemia.
   -Continue NPH & insulin sliding scale
   .
   8) Hypertension: Resolved with restarting her home regimen.
   - Continue Carvedilol 25mg PO BID, Clonidine 0.1 PO BID, Captopril
   6.25mg TID
   ICU Care
   Nutrition: cardiac/heart healthy, thin liquids, moist ground solids,
   pills in puree
   Glycemic Control:  NPH & Humalog sliding scale
   Lines:
   PICC Line - [**2168-3-4**] 12:00 PM
   Arterial Line - [**2168-3-4**] 10:02 PM
   Prophylaxis:
   DVT: SC Heparin & Pneumoboots
   Stress ulcer:  Protonix
   VAP:
   Communication:  Patient & patient
s son [**Name (NI) 117**]
   Code status: Full code
   Disposition: pending clinical improvement

2168-03-09 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-8**]:
   - Dr. [**First Name (STitle) **] reinforces YES to Imdur/[**Last Name (LF) 10589**], [**First Name3 (LF) **] restarted
   - S&S video swallow today, rec: thin liquids, moistened ground solids,
   whole pills with thin liquids
   - written for dulcolax
   - had some abdominal soreness at his insulin injection site, received
   tylenol
   - facemask d/c'd, switched to 4L NC with sat's in the mid-to-high 90's
   - captopril held for sBP of 90
   Allergies:
   Codeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2168-3-7**] 10:37 AM
   Vancomycin - [**2168-3-8**] 11:07 AM
   Cefipime - [**2168-3-8**] 12:07 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-3-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Dyspnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2168-3-9**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 66 (53 - 77) bpm
   BP: 112/29(55) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.8 kg (admission): 92.7 kg
   Height: 62 Inch
             Total In:
                                                                  1,220 mL
                                                                    269 mL
   PO:
                                                                    800 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    420 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    430 mL
   Urine:
                                                                  1,250 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43/43/85.[**Numeric Identifier 433**]/27/3
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Well nourished, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : left anterior , Wheezes
   : diffuse, Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   222 K/uL
   8.2 g/dL
   123 mg/dL
   1.8 mg/dL
   27 mEq/L
   4.0 mEq/L
   108 mg/dL
   107 mEq/L
   143 mEq/L
   24.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2168-3-6**]  06:22 AM
                             [**2168-3-6**]  06:28 AM
                             [**2168-3-6**]  01:49 PM
                             [**2168-3-7**]  06:01 AM
                             [**2168-3-7**]  06:18 AM
                             [**2168-3-7**]  04:27 PM
                             [**2168-3-7**]  06:21 PM
                             [**2168-3-8**]  04:48 AM
                             [**2168-3-9**]  03:24 AM
                             [**2168-3-9**]  06:31 AM
   WBC
   6.5
   6.7
   7.9
   7.6
   Hct
   23.4
   24.8
   25.1
   26.8
   24.8
   Plt
   146
   180
   202
   222
   Cr
   2.1
   2.2
   2.0
   1.8
   TCO2
   30
   28
   30
   30
   29
   Glucose
   [**Telephone/Fax (3) 10590**]23
   Other labs: PT / PTT / INR:12.9/33.1/1.1, CK / CKMB /
   Troponin-T:194/19/1.03, ALT / AST:47/45, Alk Phos / T Bili:144/0.6,
   Differential-Neuts:87.6 %, Lymph:4.3 %, Mono:5.2 %, Eos:0.5 %, Lactic
   Acid:1.7 mmol/L, LDH:297 IU/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   86 year old woman with PMH significant for CAD, chronic systolic CHF,
   CKD, and diabetes mellitus presenting with dyspnea on exertion, weight
   gain, and lower extremity edema c/w COPD & systolic CHF exacerbation.
   She was found to have a multilobar pneumonia and briefly met criteria
   for ARDS. She continues to improve on abx and reduce O2 requirement.
   .
   1) Health Care Associated Pneumonia/Respiratory Distress: Patient is
   improving clinically on broad spectrum antibiotics with a decreasing O2
   requirement in the context of a negative flu swab and no pathogen
   isolated with sputum culture due to contamination.  Bilateral
   consolidation (R>L) on chest CT also consistent with persistent
   aspirations, but S&S bedside evaluation on [**3-7**] was without clinically
   significant aspiration. Video swallow reinforced need for precautions
   but unalarming.  Patient also has evidence of tracheobronchomalacia,
   predisposing her to recurrent pulmonary infection. Patient briefly met
   criteria for ARDS.
   - continue to Wean O2, now at 4L NC
   - Continue Cefepime (renally dosed, day1: [**3-2**], day [**9-20**]) and
   Vancomycin (dosed per level, day1: [**3-2**], day [**9-20**]),  Levofloxacin 250mg
   IV q24H, day 7
   - Ipratropium & Albuterol nebs
   - aspiration precautions
   - HOB elevation
   - F/U CXR
   - F/U Pulmonary recs
   .
   2) NSTEMI: Patient with h/o CAD and ruled in on [**3-2**] PM with elevated
   enzymes, unchanged EKG and no chest pain in the context of heart demand
   ischemia,. She was continued on BB, ASA, statin, and Heparin gtt per
   protocol and managed medically as she is not an ideal candidate for
   cardiac catheterization. Since then, she has been chest pain free.
   Repeat TTE on [**3-7**] demonstrates mild to moderate regional LV systolic
   dysfunction with severe hypokinesis of the distal half of the septum
   and inferior walls. LVEF = 40 %. mod MR. [**First Name (Titles) **] [**Last Name (Titles) 1560**] HTN. Heartrate
   control between 53-77 on [**3-8**]
   - Continue Carvedilol 25mg PO BID
   - Continue ASA, Simvastatin, Plavix
   .
   3) Acute on chronic systolic congestive heart failure:  Dr. [**First Name (STitle) **] felt
   patient
s presentation not c/w with acute exacerbation of sCHF. Per Dr.
   [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 10529**], Amlodipine was held and patient restarted on
   home Imdur/Hydralazine.  This was then held again when started on ACE.
   - Continue ASA, Captopril 6.25mg PO TID. In the setting of hypotension,
   might consider lower rose (2.5 of ramipril?)
   - Continue Lasix 80mg [**Hospital1 **], for goal I/O of even
   - Titrate O2 to goal of 92-93%
   .
   4) Acute Kidney Injury on Chronic Kidney Disease: Patient has stage
   III-IV CKD at baseline and currently back to baseline.  The initial [**Last Name (un) 2406**]
   was likely due to prerenal azotemia and poor forward flow particularly
   given 2:1 BUN to Cr ratio.
   - IV Lasix prn goal I/O of even
   - Continue to monitor
   .
   5) Anemia: Iron studies c/w iron deficiency & chronic inflammation.
   Patient also chronic kidney disease which could contribute low hct. Has
   been received pRBC
s (3u, the most recent unit on [**3-6**]) with initial
   appropriate rise in Hct, but then trends down.  Last colonoscopy in
   [**2162**], guaiac negative stool. Negative hemolysis labs. Hct improved
   today, will continue to monitor.
   - Touch base with outpatient PCP regarding need for EPO [**3-15**] kidney
   disease
   - Ferrous Sulfate 325mg with ascorbic acid daily
   - Protonix 40 mg PO DAILY
   - ideal Goal Hct >30 given ischemia, but this may be challenging in
   context of fluid overload and red cell consumption
   - Maintain active type and screen
   - Trend CBC
   .
   6) Rhythm: Patient is in sinus rhythm currently and has no history of
   arrythmia.
   - Continue to monitor on telemetry
   - continue Carvedilol 25mg PO BID
   .
   7) Diabetes Mellitus: Insulin sliding scale and NPH increased on [**3-5**]
   in context of hyperglycemia.
   -Continue NPH & insulin sliding scale
   .
   8) Hypertension: Resolved with restarting her home regimen. Control may
   be overshot.
   - Continue Carvedilol 25mg PO BID, Clonidine 0.1 PO BID, Captopril
   6.25mg TID
   .
   9) Disposition: SW has been helpful in organizing family. Patient needs
   rehab on d/c and unlikely to adequately care for self at home
   - reinforce [**Hospital3 59**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-3-4**] 12:00 PM
   Arterial Line - [**2168-3-4**] 10:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin and pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor